US05696110
Step A: Methyl 4-nitro-N-propyl-anthranilate
To a stirred suspension of methyl 4-nitroanthranilate (prepared from 4-nitroanthranilic acid, 14.2 g) in methanol (600 ml) was added propionaldehyde (5.04 g) followed by glacial acetic acid (7.2 ml). Sodium cyanoborohydride (4.56 g) was added and the reaction mixture stirred at room temperature for 16 hours. Further propionaldehyde (5.04 g) and sodium cyanoborohydride (4.56 g) were added and the mixture stirred for a further 24 hours. The solvent was evaporated and the residue partitioned between ethyl acetate and 10% potassium carbonate solution. The organic layer was separated and the aqueous re-extracted with ethyl acetate (2×100 ml). The combined organics were washed with saturated sodium chloride solution then dried (sodium sulphate) and evaporated to give the crude product, which was purified by column chromatography on silica using 10% diethyl ether/petroleum ether (60-80) to afford the required product (3.42 g, 20%). 1H NMR (250 MHz, DMSO-d6) δ0.98 (3H, t), 1.66 (2H, sextet), 3.26 (2H, dq), 3.86 (3H, s), 7.33 (1H, dd), 7.46 (1H, d), 7.88 (1H, t), 8.04 (1H, d).

reactant | methyl 4-nitroanthranilate | 14.2 g | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1)N | C8H8N2O4
reactant | propionaldehyde | 5.04 g | C(CC)=O | C3H6O
reactant | acetic acid | 7.2 ml | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 4.56 g | C(#N)[BH3-].[Na+]
reactant | propionaldehyde | 5.04 g | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | 4.56 g | C(#N)[BH3-].[Na+]
solvent | methanol | 600 ml | CO | CH4O
product | Methyl 4-nitro-N-propyl-anthranilate | 3.42 g, 20% | [N+](=O)([O-])C=1C=C(C(C(=O)OC)=CC1)NCCC | C11H14N2O4
